US09388147B2
Prepared using General Procedure 4. To a solution of 3-cyano-4-isopropoxybenzoic acid (7.74 g, 37.7 mmol) in DMF (50 mL) was added HOBt (6.02 g, 44.6 mmol) and EDC (8.53 g, 44.6 mmol) at room temperature. The reaction was stirred for 2 h until complete formation of the HOBt-acid complex. (R)-tert-butyl 4-(N-hydroxycarbamimidoyl)-2,3-dihydro-1H-inden-1-ylcarbamate INT-10 (10.0 g, 34.3 mmol) was added and the reaction mixture stirred at room temperature for 2 h until the formation of INT-11, (R)-tert-butyl 4-(N-(3-cyano-4-isopropoxybenzolyloxy)carbamimidoyl)-2,3-dihydro-1H-inden-1-ylcarbamate. The mixture was partitioned between EA and NaHCO3 and the organic layer was collected and dried over MgSO4. INT-11 (16.3 g, 34.0 mmol) was re-dissolved in DMF (50 mL) and the mixture was heated to 95° C. for 12 hrs. The reaction was diluted with NaHCO3 (200 mL) and extracted with EA (3×50 mL). The organic layer was dried over Na2SO4 and concentrated under reduced pressure to produce 12.8 g (81%) of (R)-tert-butyl 4-(5-(3-cyano-4-isopropoxyphenyl)-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1H-inden-1-ylcarbamate INT-12 as a light brown solid and used without further purification in the next step. LCMS-ESI (m/z) calculated for C26H28N4O4: 460.5. found 483.2 [M+Na]+, tR=4.25 min. 1H NMR (400 MHz, CDCl3) δ 8.43 (d, J=2.1, 1H), 8.34 (dd, J=8.9, 2.2, 1H), 8.09 (d, J=7.6, 1H), 7.51 (d, J=7.5, 1H), 7.39 (t, J=7.6, 1H), 7.12 (d, J=9.0, 1H), 5.28 (d, J=8.2, 1H), 4.80 (hept, J=6.0, 1H), 3.47 (ddd, J=17.4, 8.9, 3.5, 1H), 3.27-3.03 (m, 1H), 2.68 (d, J=8.7, 1H), 1.87 (td, J=16.7, 8.5, 1H), 1.53-1.43 (m, 15H). 13C NMR (101 MHz, CDCl3) δ 173.00, 168.82, 162.70, 155.68, 145.31, 142.96, 134.05, 133.83, 128.25, 127.21, 126.79, 123.09, 116.78, 115.24, 113.52, 103.87, 79.52, 72.70, 55.72, 33.86, 31.47, 28.39, 21.70. Chiral HPLC: (R)-tert-butyl 4-(5-(3-cyano-4-isopropoxyphenyl)-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1H-inden-1-ylcarbamate was eluted using 20% i-PrOH in hexanes: >99.9% ee, tR=13.33 min. The (S)-enantiomer INT-13 was prepared in an analogous fashion using (S)-tert-butyl 4-cyano-2,3-dihydro-1H-inden-1-ylcarbamate using General Procedures 3 and 4 (tR for (S)-enantiomer=16.31 min).

reactant | 3-cyano-4-isopropoxybenzoic acid | 37.7 mmol, 7.74 g | C(#N)C=1C=C(C(=O)O)C=CC1OC(C)C | C11H11NO3
reactant | HOBt | 44.6 mmol, 6.02 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 44.6 mmol, 8.53 g
reactant | (R)-tert-butyl 4-(N-hydroxycarbamimidoyl)-2,3-dihydro-1H-inden-1-ylcarbamate | ONC(=N)C1=C2CC[C@H](C2=CC=C1)NC(OC(C)(C)C)=O | C15H21N3O3
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (R)-tert-butyl 4-(5-(3-cyano-4-isopropoxyphenyl)-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1H-inden-1-ylcarbamate | 12.8 g, 81% | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=C2CC[C@H](C2=CC=C1)NC(OC(C)(C)C)=O | C26H28N4O4
